US05688798
A suspension of 0.30 g (0.0019 mol) of 5-chloromethyl-2-methyl-pyrimidin-4-ylamine hydrochloride in 20 ml of dimethylformamide was treated with 0.30 g (0.00157 mol) of 1-phenethyl-piperazine and 0.66 ml (0.0047 mol) of triethylamine and the mixture was stirred at room temperature under argon for 36 hours. The mixture was completely freed from the solvents. The residue was partitioned between dichloromethane and water, extracted, chromatographed over silica gel with methanol as the eluent and recrystallized from toluene. 0.39 g (83%) of 2-methyl-5-(4-phenethyl-piperazin-1-ylmethyl)-pyrimidin-4-ylamine was obtained as white crystals; m.p. 162°-165°.

reactant | 5-chloromethyl-2-methyl-pyrimidin-4-ylamine hydrochloride | 0.0019 mol, 0.30 g | Cl.ClCC=1C(=NC(=NC1)C)N
reactant | 1-phenethyl-piperazine | 0.00157 mol, 0.30 g | C(CC1=CC=CC=C1)N1CCNCC1 | C12H18N2
reactant | triethylamine | 0.0047 mol, 0.66 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-methyl-5-(4-phenethyl-piperazin-1-ylmethyl)-pyrimidin-4-ylamine | 0.39 g, 83% | CC1=NC=C(C(=N1)N)CN1CCN(CC1)CCC1=CC=CC=C1 | C18H25N5
